US04303656
(d) 2-(N,N-Dimethylaminomethyl)-4-(4'-chlorophenyl)chroman
2-(N,N-Dimethylaminomethyl)-4-(4'-chlorophenyl)-3-chromene (0.36 g) and Adams catalyst (PtO2) (5 mg) in ethanol (30 ml) was hydrogenated at atmospheric pressure. When hydrogen uptake was complete (4 hours) the catalyst was removed by filtration and the solution evaporated to give an oil which was chromatographed on alumina using chloroform as eluant. The eluate was evaporated to give, after trituration with petroleum ether (40°/60°) the title compound (200 mg) as a white solid, mp 120°-122° C.

reactant | 2-(N,N-Dimethylaminomethyl)-4-(4'-chlorophenyl)-3-chromene | 0.36 g | CN(C)CC1OC2=CC=CC=C2C(=C1)C1=CC=C(C=C1)Cl | C18H18ClNO
reactant | hydrogen | [H][H] | H2
catalyst | Adams catalyst | 5 mg | O=[Pt]=O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(N,N-Dimethylaminomethyl)-4-(4'-chlorophenyl)chroman | 200 mg | CN(C)CC1OC2=CC=CC=C2C(C1)C1=CC=C(C=C1)Cl | C18H20ClNO
